US09062088B2
Step 1: Preparation of 2-amino-5-bromo-1H-pyrrole-3,4-dicarbonitrile) (3)
Tetracyanoethylene (10.02 g, 78.23 mmol) was dissolved in the mixed solvent of acetone (60 mL) and ethyl acetate (120 mL), to which hydrogen bromide (33 wt %, 60 mL) dissolved in acetic acid was added at 0˜5° C. The yellow solid compound observed after one hour-stirring was isolated by filtering. After washing the compound with cold distilled water (100 mL), the mixture was dried in the air to give the target compound (11.02 g, 52.22 mmol, 66.8%).

reactant | Tetracyanoethylene | 78.23 mmol, 10.02 g | C(#N)C(=C(C#N)C#N)C#N | C6N4
reactant | hydrogen bromide | 60 mL | Br | BrH
solvent | acetone | 60 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-5-bromo-1H-pyrrole-3,4-dicarbonitrile | 52.22 mmol, 11.02 g, 66.8% | NC=1NC(=C(C1C#N)C#N)Br | C6H3BrN4
